*****************************************************************
* Library for SIEMENS Power Diodes	V1.0  	      01/26/98      *
*										                        *
* Models provided by SIEMENS are not warranted by SIEMENS as    *
* fully representing all of the specifications and operating    *
* characteristics of the semiconductor product to which the     *
* model relates. The model describe the characteristics of a    * 
* typical device.                                               * 
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. SIEMENS therefore does not   *
* assume any liability arising from their use.                  *
* SIEMENS reserves the right to change models without prior     * 
* notice.                                                       *
*                                                               * 
* content:									                    *
* BYP 103							   	                        *
* BYP 301							                            *
* BYP 302							                            *
* BYP 303							                            *
*                    						                    *
* This model is solely valid at room-temperature                *
* 								                                *
* The basics of the diode model used in this template can be    *
* found in							                            *
*	R. Kraus, K. Hoffmann, P. Türkes			                *
*	Reverse Recovery Model of Power Diodes	        		    *
*	EPE-MADEP Proceedings O - 343 (1991)			            *
*     and the papers cited therein					            *
*								                                *
*****************************************************************
*********
*SRC=BYP103;BYP103;Diodes;Siemens;
*SYM=DIODE
.SUBCKT BYP103   ANODE    KATODE    PARAMS:
+
+ TT        =         200n    
+ TM        =         150n   
+ VTA       =         0.026 
+ Is        =         1e-5  
+ N         =         2    
+ R_reih    =         25m   
+ Cjc       =         1.5nF
+ Mj        =         .7  
+ Vj        =         .6 
+ Ls        =         1n 
+ Rs        =         1  
+ BV        =         1000 

* TT        =         200n     ; bestimmt Hoehe der Rueckstromspitze
* TM        =         150n     ; bestimmt Abrissteilheit des Rueckstroms
* VTA       =         0.026    ; Vta = K*T/q
* Is        =         1e-5     ; Abschaetzen aus der Diodenkennlinie
* N         =         2        ;    "   "   "   "   "   "   "   "
* R_reih    =         25m      ;    "   "   "   "   "   "   "   "
* Cjc       =         1.5nF    ; Dem Datenblatt zu entnehmen
* Mj        =         .7       ; default
* Vj        =         .6       ; default
* Ls        =         1n       ; parasitaere Induktivitaet
* Rs        =         1        ; parasitaerer Widerstand
* BV        =         1000     ; Blockierspannung

*
R_diode    ANODE     an_1     {R_reih}
L_streu    an_1      an_2     {Ls}   
BG_diode    an_2      KATODE   I= (V(1)-I(V_mess))/{TM} 
*G_diode    an_2      KATODE   VALUE = {(V(1)-I(V_mess))/TM}
***  HILFSNETZWERK  ***
*
BE_e 99 0 V=V(an_2,KATODE) * {TT}
AE_e        99   1  PWL
.Model PWL PWL2 xy_array=[-1k -1e-14   0 0   10 10K]
*E_e        1         0        TABLE { V(an_2,KATODE)*TT } = (-1k,-1e-14) (0,0) (10,10K)
R_dif      1         2        {(TT+TM)/TT}
L_dif      2         3        {TM}  IC=0
V_mess     3         0        0V
***  SPERRSCHICHTKAPAZITAET  ***
*
D_kap      an_2      KATODE   D_Sperr
.MODEL     D_Sperr   D(IS={Is} CJO={Cjc} VJ={Vj} M={Mj} N={N} Rs=0.001 FC=1 BV={BV})
.ends
*****************
*SRC=BYP303;BYP303;Diodes;Siemens;
*SYM=DIODE
.SUBCKT BYP303   ANODE    KATODE    PARAMS:
+
+ TT        =         200n
+ TM        =         150n 
+ VTA       =         0.026 
+ Is        =         1e-5
+ N         =         2  
+ R_reih    =         25m 
+ Cjc       =         1.4nF
+ Mj        =         .7 
+ Vj        =         .6
+ Ls        =         1n 
+ Rs        =         1   
+ BV        =         1200 

* TT        =         200n     ; bestimmt Hoehe der Rueckstromspitze
* TM        =         150n     ; bestimmt Abrissteilheit des Rueckstroms
* VTA       =         0.026    ; Vta = K*T/q
* Is        =         1e-5    ; Abschaetzen aus der Diodenkennlinie
* N         =         2        ;    "   "   "   "   "   "   "   "
* R_reih    =         25m      ;    "   "   "   "   "   "   "   "
* Cjc       =         1.4nF    ; Dem Datenblatt zu entnehmen
* Mj        =         .7       ; default
* Vj        =         .6       ; default
* Ls        =         1n       ; parasitaere Induktivitaet
* Rs        =         1        ; parasitaerer Widerstand
* BV        =         1200     ; Blockierspannung

*
R_diode    ANODE     an_1     {R_reih}
L_streu    an_1      an_2     {Ls}   
BG_diode    an_2      KATODE   I= (V(1)-I(V_mess))/{TM}
*G_diode    an_2      KATODE   VALUE = {(V(1)-I(V_mess))/TM}
***  HILFSNETZWERK  ***
*
BE_e 99 0 V=V(an_2,KATODE) * {TT}
AE_e        99   1  PWL
.Model PWL PWL2 xy_array=[-1k -1e-14   0 0   10 10K]
*E_e        1         0        TABLE { V(an_2,KATODE)*TT } = (-1k,-1e-14) (0,0) (10,10K)
R_dif      1         2        {(TT+TM)/TT}
L_dif      2         3        {TM}  IC=0
V_mess     3         0        0V
***  SPERRSCHICHTKAPAZITAET  ***
*
D_kap      an_2      KATODE   D_Sperr
.MODEL     D_Sperr   D(IS={Is} CJO={Cjc} VJ={Vj} M={Mj} N={N} Rs=0.001 FC=1 BV={BV})
.ends
*************
*SRC=BYP302;BYP302;Diodes;Siemens;
*SYM=DIODE
.SUBCKT BYP302   ANODE    KATODE    PARAMS:
+
+ TT        =         200n 
+ TM        =         150n 
+ VTA       =         0.026
+ Is        =         .8e-5 
+ N         =         2   
+ R_reih    =         25m  
+ Cjc       =         1.1nF 
+ Mj        =         .7 
+ Vj        =         .6 
+ Ls        =         1n 
+ Rs        =         1   
+ BV        =         1200 

* TT        =         200n     ; bestimmt Hoehe der Rueckstromspitze
* TM        =         150n     ; bestimmt Abrissteilheit des Rueckstroms
* VTA       =         0.026    ; Vta = K*T/q
* Is        =         .8e-5    ; Abschaetzen aus der Diodenkennlinie
* N         =         2        ;    "   "   "   "   "   "   "   "
* R_reih    =         25m      ;    "   "   "   "   "   "   "   "
* Cjc       =         1.1nF    ; Dem Datenblatt zu entnehmen
* Mj        =         .7       ; default
* Vj        =         .6       ; default
* Ls        =         1n       ; parasitaere Induktivitaet
* Rs        =         1        ; parasitaerer Widerstand
* BV        =         1200     ; Blockierspannung

*
R_diode    ANODE     an_1     {R_reih}
L_streu    an_1      an_2     {Ls}   
BG_diode    an_2      KATODE   I= (V(1)-I(V_mess))/{TM}
*G_diode    an_2      KATODE   VALUE = {(V(1)-I(V_mess))/TM}
***  HILFSNETZWERK  ***
*
BE_e 99 0 V=V(an_2,KATODE) * {TT}
AE_e        99   1  PWL
.Model PWL PWL2 xy_array=[-1k -1e-14   0 0   10 10K]
*E_e        1         0        TABLE { V(an_2,KATODE)*TT } = (-1k,-1e-14) (0,0) (10,10K)
R_dif      1         2        {(TT+TM)/TT}
L_dif      2         3        {TM}  IC=0
V_mess     3         0        0V
***  SPERRSCHICHTKAPAZITAET  ***
*
D_kap      an_2      KATODE   D_Sperr
.MODEL     D_Sperr   D(IS={Is} CJO={Cjc} VJ={Vj} M={Mj} N={N} Rs=0.001 FC=1 BV={BV})
.ends
*************
*SRC=BYP301;BYP301;Diodes;Siemens;
*SYM=DIODE
.SUBCKT BYP301   ANODE    KATODE    PARAMS:
+
+ TT        =         200n  
+ TM        =         150n  
+ VTA       =         0.026
+ Is        =         .5e-5 
+ N         =         2    
+ R_reih    =         25m 
+ Cjc       =         .7nF
+ Mj        =         .7  
+ Vj        =         .6 
+ Ls        =         1n 
+ Rs        =         1    
+ BV        =         1200 

* TT        =         200n     ; bestimmt Hoehe der Rueckstromspitze
* TM        =         150n     ; bestimmt Abrissteilheit des Rueckstroms
* VTA       =         0.026    ; Vta = K*T/q
* Is        =         .5e-5    ; Abschaetzen aus der Diodenkennlinie
* N         =         2        ;    "   "   "   "   "   "   "   "
* R_reih    =         25m      ;    "   "   "   "   "   "   "   "
* Cjc       =         .7nF    ; Dem Datenblatt zu entnehmen
* Mj        =         .7       ; default
* Vj        =         .6       ; default
* Ls        =         1n       ; parasitaere Induktivitaet
* Rs        =         1        ; parasitaerer Widerstand
* BV        =         1200     ; Blockierspannung

*
R_diode    ANODE     an_1     {R_reih}
L_streu    an_1      an_2     {Ls}   
BG_diode    an_2      KATODE   I= (V(1)-I(V_mess))/{TM}
*G_diode    an_2      KATODE   VALUE = {(V(1)-I(V_mess))/TM}
***  HILFSNETZWERK  ***
*
BE_e 99 0 V=V(an_2,KATODE) * {TT}
AE_e        99   1  PWL
.Model PWL PWL2 xy_array=[-1k -1e-14   0 0   10 10K]
*E_e        1         0        TABLE { V(an_2,KATODE)*TT } = (-1k,-1e-14) (0,0) (10,10K)
R_dif      1         2        {(TT+TM)/TT}
L_dif      2         3        {TM}  IC=0
V_mess     3         0        0V
***  SPERRSCHICHTKAPAZITAET  ***
*
D_kap      an_2      KATODE   D_Sperr
.MODEL     D_Sperr   D(IS={Is} CJO={Cjc} VJ={Vj} M={Mj} N={N} Rs=0.001 FC=1 BV={BV})
.ends
************

